US09359381B2
Step 2: 2-(((4-Methoxybenzyl)oxy)methyl)thiirane
Thiourea (0.935 g, 12.28 mmol) was added to a solution of 2-(((4-methoxybenzyl)oxy)methyl) oxirane (1.084 g, 5.58 mmol) in methanol (30 mL) and the mixture stirred at room temperature for 16 hours, then evaporated under vacuum. Purification by chromatography on silica, eluting with 0-10% EtOAc/hexane, afforded the title compound.

reactant | Thiourea | 12.28 mmol, 0.935 g | NC(=S)N | CH4N2S
reactant | 2-(((4-methoxybenzyl)oxy)methyl) oxirane | 5.58 mmol, 1.084 g | COC1=CC=C(COCC2OC2)C=C1 | C11H14O3
solvent | methanol | 30 mL | CO | CH4O
product | 2-(((4-Methoxybenzyl)oxy)methyl)thiirane | COC1=CC=C(COCC2SC2)C=C1 | C11H14O2S
